US07888347B2
2-[4-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (D35)
To a solution of 1,1-dimethylethyl 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (may be prepared as described in Description 34) (159 mg, 0.40 mmol) in dichloromethane (12 ml) was added trifluoroacetic acid (6 ml). The resulting mixture was stirred at room temperature for 30 minutes and then diluted with methanol. Reaction was purified by SCX, eluting with methanol and then 2M ammonia/methanol. The basic fractions were combined and the solvent evaporated in vacuo to afford the title compound (D35). MS (ES+) m/e 296 [M+H]+.

reactant | 1,1-dimethylethyl 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.40 mmol, 159 mg | CC1=NOC(=N1)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C21H25N5O3
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-[4-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | CC1=NOC(=N1)C1=CC=C(C=C1)N1N=C2CCNCCC2=C1 | C16H17N5O
